US09447091B2
a) Ethyl 2-(piperidin-1-yl)acetate
To a solution of piperidine (3.4 g, 40.7 mmol, 1.0 eq) in DMF were added K2CO3 (14 g, 101.0 mmol, 2.5 eq.) and ethyl 2-chloroacetate (4.83 ml, 48.9 mmol, 1.2 eq). The mixture was stirred at RT for 16 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to give the product in 72% yield (5 g). LC-MS (ESI): Calculated mass: 171.1; Observed mass 172.3 [M+H]+ (rt: 0.1 min).

reactant | piperidine | 40.7 mmol, 3.4 g, 1.0 eq | N1CCCCC1 | C5H11N
reactant | K2CO3 | 101.0 mmol, 14 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-chloroacetate | 48.9 mmol, 4.83 ml, 1.2 eq | ClCC(=O)OCC | C4H7ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-(piperidin-1-yl)acetate | 72% yield | N1(CCCCC1)CC(=O)OCC | C9H17NO2
